US05146003
In 10 ml of dried diethyl ether was dissolved 5 mmol of (E)-2-cyclopentadecenone, and the solution was added dropwise to the above solution at -78° C. The mixture was allowed to react at that temperature for 15 hours, and 12 ml of a 1:1 (by volume) mixture of aqueous ammonia and a saturated ammonium chloride aqueous solution was added thereto. The reaction mixture was extracted with diethyl ether, and the extracted product was purified by silica gel column chromatography using hexane/ethyl acetate (45:1 by volume) to obtain muscone in a chemical yield of 57 mol %. The resulting muscone was R-form having an optical rotation of -11.6° (at 21° C., c 5.03, MeOH) and an optical purity of 99%ee.

reactant | (E)-2-cyclopentadecenone | 5 mmol | C1(\C=C\CCCCCCCCCCCC1)=O | C15H26O
reactant | ammonia | N | H3N
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | muscone | CC1CCCCCCCCCCCCC(=O)C1 | C16H30O
